US06949543B2
Methanol (20 ml) solution of methyl N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-methoxyphenyl)terephthalamate monohydrochloride (800 mg) was mixed with 1 M sodium hydroxide aqueous solution (1.5 ml) and then heated under reflux for 4 hours. The reaction solution was concentrated, and ethanol (20 ml) and diisopropyl ether (10 ml) were added to the thus obtained residue to effect precipitation of crystals. After filtration, the crystals were washed with diisopropyl ether to obtain 530 mg of sodium N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-methoxyphenyl)terephthalamate (white crystals).

reactant | methyl N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-methoxyphenyl)terephthalamate monohydrochloride | 800 mg | Cl.NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C(=O)OC)C=C1)=O)C1=CC=C(C=C1)OC
reactant | sodium hydroxide | 1 M, 1.5 ml | [OH-].[Na+]
solvent | Methanol | 20 ml | CO | CH4O
product | sodium N-({[4-(2-aminothiazol-4-yl)phenyl]carbamoyl}methyl)-N-(4-methoxyphenyl)terephthalamate | 530 mg | NC=1SC=C(N1)C1=CC=C(C=C1)NC(=O)CN(C(C1=CC=C(C(=O)[O-])C=C1)=O)C1=CC=C(C=C1)OC.[Na+] | InChI=1S/C26H22N4O5S.Na/c1-35-21-12-10-20(11-13-21)30(24(32)17-2-4-18(5-3-17)25(33)34)14-23(31)28-19-8-6-16(7-9-19)22-15-36-26(27)29-22;/h2-13,15H,14H2,1H3,(H2,27,29)(H,28,31)(H,33,34);/q;+1/p-1
